US07547710B2
To a solution of benzyl (4-{[tert-butyl(dimethyl)silyl]-oxy}-2-{[methoxy(methyl)amino]carbonyl}phenyl)carbamate (91 g, 0.20 mol) in ethanol (250 ml)-tetrahydrofuran (250 ml) was added 5% palladium-carbon (25 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 12 hrs. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was crystallized from n-hexane to give 2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}-N-methoxy-N-methylbenzamide (44 g, yield 70%) as white crystals.

reactant | benzyl (4-{[tert-butyl(dimethyl)silyl]-oxy}-2-{[methoxy(methyl)amino]carbonyl}phenyl)carbamate | 0.20 mol, 91 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)C(=O)N(C)OC | C23H32N2O5Si
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 25 g | [C].[Pd]
product | 2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}-N-methoxy-N-methylbenzamide | 44 g, yield 70% | NC1=C(C(=O)N(C)OC)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C15H26N2O3Si
